US08686022B2
Tert-butyl 4-(2-{4-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazin-1-yl}-2-oxo-ethyl)-piperazine-1-carboxylate
110 mg tert-butyl 4-carboxymethyl-piperazine-1-carboxylate are dissolved in 2 ml N,N-dimethylformamide, combined with 135 mg O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium-tetrafluoroborate (TBTU) as well as 270 μl N,N-diisopropyl-ethylamine (DIEA) and stirred for 20 minutes. Then 200 mg 1-methyl-7-piperazin-1-ylmethyl-1H-indole-2-carboxylic acid-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide dihydrochloride are added, the mixture is stirred for 12 hours at ambient temperature and then divided between water and ethyl acetate. The organic phase is washed with saturated aqueous sodium chloride solution and dried on magnesium sulphate. The solvents are eliminated in vacuo and the residue is chromatographed on silica gel (dichloromethane/(methanol/conc. ammonia 9:1) 99:1 to 90:10).

reactant | tert-butyl 4-carboxymethyl-piperazine-1-carboxylate | 110 mg | C(=O)(O)CN1CCN(CC1)C(=O)OC(C)(C)C | C11H20N2O4
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 135 mg | N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C.F[B-](F)(F)F
reactant | N,N-diisopropyl-ethylamine | 270 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-methyl-7-piperazin-1-ylmethyl-1H-indole-2-carboxylic acid-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide dihydrochloride | 200 mg | Cl.Cl.C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCNCC1)C)OC)NS(=O)(=O)C
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Tert-butyl 4-(2-{4-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazin-1-yl}-2-oxo-ethyl)-piperazine-1-carboxylate | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)=O)C)OC)NS(=O)(=O)C | C38H55N7O7S
